US06096735
1-[4-Nitro-2-chlorobenzoyl]-1,5-benzodiazepine (5 g) and ethyl bromoacetate (16.7 ml) are dissolved in acetonitrile (100 ml), and thereto is added dropwise 1,8-diazabicyclo[5.4.0]-7-undecene (11.3 ml). The mixture is refluxed for two days, concentrated, and thereto are added water and chloroform, and extracted. The extract is dried over sodium carbonate, and purified by silica gel column chromatography (solvent; n-hexane:ethyl acetate=4:1→1:1) to give 1-(4-nitro-2-chlorobenzoyl)-5-ethoxycarbonylmethyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepine (4.4 g) as pale yellow oil.

reactant | 1-[4-Nitro-2-chlorobenzoyl]-1,5-benzodiazepine | 5 g | [N+](=O)([O-])C1=CC(=C(C(=O)N2C=CC=NC3=C2C=CC=C3)C=C1)Cl | C16H10ClN3O3
reactant | ethyl bromoacetate | 16.7 ml | BrCC(=O)OCC | C4H7BrO2
reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 11.3 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 1-(4-nitro-2-chlorobenzoyl)-5-ethoxycarbonylmethyl-2,3,4,5-tetrahydro-1H-1,5-benzodiazepine | 4.4 g | [N+](=O)([O-])C1=CC(=C(C(=O)N2CCCN(C3=C2C=CC=C3)CC(=O)OCC)C=C1)Cl | C20H20ClN3O5
